US08404856B2
Step 1: 2-bromo-4-chloro-3-fluoropyridine 21-1
To a solution of 2,2,6,6-tetramethylpiperidine (25 g, 190 mmol) in hexanes (100 mL) cooled over dry ice acetone bath for 5 minutes was added 1.6M n-butyl lithium in hexanes (121 mL, 194 mmol) over 5 minutes. After the addition was complete, the reaction mixture was placed in an ice bath and the mixture was allowed to stir at 0° C. for 20 minutes as a white solid formed. The suspension was re-cooled over dry ice/acetone bath for 5 minutes and then treated with a solution of 4-chloro-3-fluoropyridine (25 g, 190 mmol) in hexanes (50 mL) over 5 minutes and this mixture was stirred over dry ice/acetone bath for additional 10 minutes. After this time, this mixture was treated with bromine (30.4 mL, 190 mmol) and stirred over dry ice/acetone bath for 15 minutes. After this time, the reaction mixture was stirred for 30 minutes at 0° C. and then allowed to warm to room temperature. The reaction mixture was re-cooled over wet ice bath and quenched with water (200 mL) and extracted with ether (3×300 mL). The combined organic extracts were washed with water, dried (MgSO4), and the solvent removed in vacuo. The residue was purified by chromatography using 330 g silica gel cartridge and eluting with a gradient of 20-100% CH2Cl2 in hexanes to provide the title compound. 1H NMR (CDCl3) δ=8.13 (d, 1H, J=5.1 Hz) and 7.35 (dd, 1H, J=5 Hz) ppm.

reactant | 2,2,6,6-tetramethylpiperidine | 190 mmol, 25 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | 4-chloro-3-fluoropyridine | 190 mmol, 25 g | ClC1=C(C=NC=C1)F | C5H3ClFN
reactant | bromine | 190 mmol, 30.4 mL | BrBr | Br2
product | 2-bromo-4-chloro-3-fluoropyridine | BrC1=NC=CC(=C1F)Cl | C5H2BrClFN
